data/polar.json
{"reaction_name": "Electrophilic fluorination", "rsmi": "[O:3]=[S:21](=[O:4])([N:19]([F:18])[S:20](=[O:5])(=[O:6])[c:36]1[cH:10][cH:25][cH:14][cH:28][cH:13]1)[c:37]1[cH:11][cH:26][cH:15][cH:27][cH:12]1.[cH:1]1[c:31]([CH:16]=[C:22]2[S:8][c:29]3[cH:23][cH:9][cH:17][cH:7][c:24]3[N:35]2[CH3:30])[cH:2][cH:33][cH:34][cH:32]1>>[O:3]=[S:21](=[O:4])([N-:19][S:20](=[O:5])(=[O:6])[c:36]1[cH:10][cH:25][cH:14][cH:28][cH:13]1)[c:37]1[cH:11][cH:26][cH:15][cH:27][cH:12]1.[cH:1]1[c:31]([CH:16]([F:18])[c:22]2[s:8][c:29]3[cH:23][cH:9][cH:17][cH:7][c:24]3[n+:35]2[CH3:30])[cH:2][cH:33][cH:34][cH:32]1", "epd": [["LP-/Pi+", [35], [22, 35]], ["Pi-/Sigma+", [16, 22], [16, 18]], ["Sigma-/LP+", [18, 19], [19]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:1]1[cH:7][cH:2][cH:10][c:17]2[cH:24][cH:8][cH:23][c:18]-2[cH:9]1.[cH:3]1[c:11]([CH+:27][c:12]2[cH:4][c:15]([F:21])[cH:26][c:16]([F:22])[cH:5]2)[cH:6][c:13]([F:19])[cH:25][c:14]1[F:20]>>[cH:1]1[cH:7][cH:2][cH:10][c:17]2[c:18]([cH+:9]1)[CH:23]([CH:27]([c:11]1[cH:3][c:14]([F:20])[cH:25][c:13]([F:19])[cH:6]1)[c:12]1[cH:4][c:15]([F:21])[cH:26][c:16]([F:22])[cH:5]1)[CH:8]=[CH:24]2", "epd": [["Pi-/Pi+", [18, 9], [17, 18]], ["Pi-/Pi+", [24, 17], [8, 24]], ["Pi-/Sigma+", [23, 8], [23, 27]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:1]1[c:27]([CH:15]=[C:20]2[S:6][c:25]3[cH:21][cH:8][cH:18][cH:5][c:22]3[N:32]2[CH3:26])[cH:2][cH:30][cH:31][cH:29]1.[n:3]1[n:4][c:24]2[n:10]([cH:12][c:23]([N+:9](=[O:7])[O-:17])[cH:16][c:13]2[N+:14](=[O:11])[O-:28])[n:19]1>>[cH:1]1[c:27]([CH:15]([CH:12]2[n:10]3[n:19][n:3][n:4][c:24]3[C:13]([N+:14](=[O:11])[O-:28])=[CH:16][C:23]2=[N+:9]([O-:7])[O-:17])[c:20]2[s:6][c:25]3[cH:21][cH:8][cH:18][cH:5][c:22]3[n+:32]2[CH3:26])[cH:2][cH:30][cH:31][cH:29]1", "epd": [["LP-/Pi+", [32], [20, 32]], ["Pi-/Sigma+", [15, 20], [15, 12]], ["Pi-/Pi+", [12, 23], [23, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:8][cH:30][c:21]([N+:14](=[CH2:20])[CH3:38])[cH:31][cH:9]1.[cH:2]1[cH:17][cH:25][c:33]([N:19]2[C:4](=[C:22]([c:3]3[cH:10][cH:34][cH:5][cH:35][cH:11]3)[O:6][CH3:36])[N:7]([c:41]3[cH:15][cH:28][cH:24][cH:29][cH:16]3)[N:37]=[C:27]2[c:23]2[cH:39][cH:12][cH:32][cH:13][cH:40]2)[cH:26][cH:18]1>>[cH:1]1[cH:8][cH:30][c:21]([N:14]([CH2:20][C:22]([c:3]2[cH:10][cH:34][cH:5][cH:35][cH:11]2)([c:4]2[n+:7](-[c:41]3[cH:15][cH:28][cH:24][cH:29][cH:16]3)[n:37][c:27](-[c:23]3[cH:39][cH:12][cH:32][cH:13][cH:40]3)[n:19]2-[c:33]2[cH:25][cH:17][cH:2][cH:18][cH:26]2)[O:6][CH3:36])[CH3:38])[cH:31][cH:9]1", "epd": [["LP-/Pi+", [7], [4, 7]], ["Pi-/Sigma+", [22, 4], [22, 20]], ["Pi-/LP+", [20, 14], [14]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:4][O:7][c:9]1[cH:26][cH:16][c:13]([CH:23]=[C:22]2[CH:24]=[C:10]([Br:19])[C:12](=[O:18])[C:11]([Br:20])=[CH:25]2)[cH:17][cH:27]1.[c:1]1([O-:21])[cH:14][cH:2][c:6]([O:8][CH3:5])[cH:3][cH:15]1>>[c:1]1([O:21][CH:23]([c:13]2[cH:16][cH:26][c:9]([O:7][CH3:4])[cH:27][cH:17]2)[c:22]2[cH:24][c:10]([Br:19])[c:12]([O-:18])[c:11]([Br:20])[cH:25]2)[cH:14][cH:2][c:6]([O:8][CH3:5])[cH:3][cH:15]1", "epd": [["LP-/Sigma+", [21], [21, 23]], ["Pi-/Pi+", [23, 22], [22, 24]], ["Pi-/Pi+", [24, 10], [10, 12]], ["Pi-/LP+", [12, 18], [18]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]12=[N:11][CH2:13][CH2:33][CH2:26][N:16]1[c:12]1[c:22]([cH:3][cH:40][cH:28][cH:35]1)[S:17]2.[C:2]([CH:9]1[N+:19](=[CH:5][CH:36]=[CH:10][c:27]2[cH:6][cH:20][cH:4][cH:21][cH:7]2)[CH:18]([CH2:37][c:32]2[cH:38][cH:14][cH:23][cH:15][cH:39]2)[C:25](=[O:8])[N:34]1[CH3:24])([CH3:29])([CH3:30])[CH3:31]>>[c:1]12[n+:16]([c:12]3[c:22]([cH:3][cH:40][cH:28][cH:35]3)[s:17]1)[CH2:26][CH2:33][CH2:13][N:11]2[CH:10]([c:27]1[cH:6][cH:20][cH:4][cH:21][cH:7]1)[CH:36]=[CH:5][N:19]1[CH:9]([C:2]([CH3:29])([CH3:30])[CH3:31])[N:34]([CH3:24])[C:25](=[O:8])[CH:18]1[CH2:37][c:32]1[cH:38][cH:14][cH:23][cH:15][cH:39]1", "epd": [["LP-/Pi+", [16], [1, 16]], ["Pi-/Sigma+", [11, 1], [11, 10]], ["Pi-/Pi+", [10, 36], [36, 5]], ["Pi-/LP+", [5, 19], [19]]]}
{"reaction_name": "Cyclic sulfite opening", "rsmi": "[O:1]=[S:7]1[O:4][CH2:2][CH2:3][O:5]1.[OH-:6]>>[O:1]=[S:7]([O-:4])[O:5][CH2:3][CH2:2][OH:6]", "epd": [["LP-/Sigma+", [6], [2, 6]], ["Sigma-/LP+", [2, 4], [4]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1](=[O+:15][CH3:14])[c:16]1[cH:9][cH:7][cH:3][cH:8][cH:10]1.[s:2]1[cH:4][cH:11][c:5]([O:13][CH3:6])[cH:12]1>>[CH:1]([CH:12]1[S:2][CH:4]=[CH:11][C:5]1=[O+:13][CH3:6])([O:15][CH3:14])[c:16]1[cH:9][cH:7][cH:3][cH:8][cH:10]1", "epd": [["LP-/Pi+", [13], [5, 13]], ["Pi-/Sigma+", [12, 5], [12, 1]], ["Pi-/LP+", [1, 15], [15]]]}
